US20010044538A1
To 1-(2-chloropyridin-4-yl)-2-cyano-2-(4-fluorophenyl)ethanone (22.0 g, 80 mmol) was added 48% hydrobromic acid (75 ml) and the reaction mixture was heated at reflux in an oil bath at 135° C. After 4 h, the reaction mixture was allowed to cool to room temperature and then further cooled in an ice bath. Saturated sodium bicarbonate (100 ml) was carefully added, followed by solid portions of sodium bicarbonate until the pH of the reaction mixture was neutral. The reaction mixture was then extracted with ethyl acetate and the ethyl acetate layer was dried over sodium sulfate, filtered and concentrated to a brown semi-solid (2.8 g). The crude product was purified by flash chromatography on silica gel, eluting with 1:1 mixture of ethyl acetate/hexanes to give 1-(2-bromopyridin-4-yl)-2-(4-fluorophenyl)ethanone (1.9 g).

reactant | 1-(2-chloropyridin-4-yl)-2-cyano-2-(4-fluorophenyl)ethanone | 80 mmol, 22.0 g | ClC1=NC=CC(=C1)C(C(C1=CC=C(C=C1)F)C#N)=O | C14H8ClFN2O
reactant | hydrobromic acid | 75 ml | Br | BrH
solvent | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
product | 1-(2-bromopyridin-4-yl)-2-(4-fluorophenyl)ethanone | 1.9 g | BrC1=NC=CC(=C1)C(CC1=CC=C(C=C1)F)=O | C13H9BrFNO
